US07618990B2
A dry round bottom flask under nitrogen was charged with oxalyl chloride (2M solution in methylene chloride (9.15 mL, 18.3 mmol) and methylene chloride (125 mL) and cooled to −78° C. Dimethylsulfoxide was added dropwise (2.6 mL, 36.6 mmol) and the mixture was stirred for 10 min. A solution of 4-{2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}benzonitrile (2.5 g, 9.2 mmol), prepared in step 1 of Example 82, in 10 mL of tetrahydrofuran was added and the mixture stirred for 30 min. Triethylamine (7.9 mL, 55 mmol) was added and the mixture was stirred for 20 min and then allowed to warm to 25° C. The mixture was then diluted with methylene chloride and washed with H2O, brine, dried over anhydrous MgSO4, filtered and concentrated. Flash chromatography (20% acetone in hexane) afforded 4-{5-chloro-2-[(1,1-dimethyl-2-oxoethyl)amino]-1,3-thiazol-4-yl}benzonitrile (0.60 g, 22%) as a yellow solid. HRMS: calcd for C14H12ClN3OS+H+, 306.04623; found (ESI, [M+H]+), 306.0453; Analytical HPLC: purity see MS. MS & UV are same at 210-370 nm; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | 4-{2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}benzonitrile | 9.2 mmol, 2.5 g | OCC(C)(C)NC=1SC=C(N1)C1=CC=C(C#N)C=C1 | C14H15N3OS
reactant | Triethylamine | 55 mmol, 7.9 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 125 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 18.3 mmol, 9.15 mL | C(Cl)Cl | CH2Cl2
product | 4-{5-chloro-2-[(1,1-dimethyl-2-oxoethyl)amino]-1,3-thiazol-4-yl}benzonitrile | 0.60 g, 22% | ClC1=C(N=C(S1)NC(C=O)(C)C)C1=CC=C(C#N)C=C1 | C14H12ClN3OS
